US05338736
2-Butyl-6-(1-hydroxy-2-propenyl)-4(1H)-quinazolinone
To a solution of 10.00 g of 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde in 350 ml of tetrahydrofuran, cooled to 0° C. is added 130.43 ml of 1.0M vinylmagnesium bromide in tetrahydrofuran over 15 minutes. The reaction mixture is stirred at 0° C. for 30 minutes. The reaction mixture is quenched at 0° C. with 50 ml of saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer is dried (Na2SO4) and concentrated in vacuo to afford a residue which is purified by column chromatography on silica gel using 1:1 ethyl acetate-hexane to give 4.81 g of the desired product, as a white solid, MP 141° C.

reactant | 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde | 10.00 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=O | C13H14N2O2
reactant | vinylmagnesium bromide | 1.0M, 130.43 ml | C(=C)[Mg]Br
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-(1-hydroxy-2-propenyl)-4(1H)-quinazolinone | 4.81 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C=C)O | C15H18N2O2
